US09212182B2
A screw cap vial was charged with 4-bromo-2-nitroaniline (7.00 g, 32.3 mmol), xantphos (0.933 g, 1.613 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.738 g, 0.806 mmol), 1,4-Dioxane (32.3 ml), and DIPEA (11.22 ml, 64.5 mmol). The vial was purged with Argon, sealed and heated to 80° C. for 10 minutes. The reaction was cooled to room temperature and benzyl mercaptan (4.01 ml, 33.9 mmol) was added and the reaction heated at 80° C. for 3 hours. The reaction was cooled to room temperature, diluted with water and extracted with DCM (3×). The combined organics were washed with water and brine, dried over magnesium sulfate, filtered and concentrated. The resulting material was concentrated, dissolved in minimal DCM and purified via column chromatography (silica gel 40 g, gradient elution 0 to 50% EtOAc:Heptane) to afford 4-(benzylthio)-2-nitroaniline (7.43 g, 28.5 mmol, 88% yield). m/z (ESI) 261.2 (M+H)+.

reactant | 4-bromo-2-nitroaniline | 32.3 mmol, 7.00 g | BrC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | 1,4-Dioxane | 32.3 ml | O1CCOCC1 | C4H8O2
reactant | DIPEA | 64.5 mmol, 11.22 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl mercaptan | 33.9 mmol, 4.01 ml | C(C1=CC=CC=C1)S | C7H8S
solvent | water | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.806 mmol, 0.738 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 1.613 mmol, 0.933 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 4-(benzylthio)-2-nitroaniline | 28.5 mmol, 7.43 g, 88% yield | C(C1=CC=CC=C1)SC1=CC(=C(N)C=C1)[N+](=O)[O-] | C13H12N2O2S
